US07429666B2
Step 1. 2-Ethylquinoline
To a 0.40 M solution of diisopropyl amine in THF at −10° C. was added slowly 1.0 equiv of a solution of n-BuLi (2.5 M/hexane). After 10 min, the mixture was cooled to −78° C. and 0.9 equiv of quinaldine was added dropwise. The red/orange solution was then stirred at 0° C. for 1 h. MeI was then added and the reaction was stirred at room temperature for 2 h. The reaction was quenched with aqueous NH4Cl solution, and then extracted with EtOAc. The organic phase was washed with H2O and brine. The solution was then dried (MgSO4), filtered, and evaporated. The crude material was purified by flash chromatography with 1:10 EtOAc:hexanes to give the title compound as a pale yellow oil.

reactant | diisopropyl amine | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | quinaldine | 0.9 equiv | N1=C(C)C=CC2=CC=CC=C12 | C10H9N
reactant | MeI | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | 2-Ethylquinoline | C(C)C1=NC2=CC=CC=C2C=C1 | C11H11N
